US09315458B2
B) 3-fluoro-2-hydroxy-4-methoxybenzaldehyde
To a solution of 2-fluoro-3-methoxyphenol (22.0 g) and triethylamine (93.9 g) in dichloroethane (250 mL) was added magnesium chloride (71.7 g), and the mixture was stirred at 40° C. for 1 hr. To this mixture was added paraformaldehyde (46.5 g), and the mixture was stirred for 16 hr. The reaction solution was allowed to be cooled to room temperature, 1N hydrochloric acid was added thereto, and the mixture was extracted with dichloromethane. The organic layer was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by combi flash (petroleum ether/ethyl acetate) to give the title compound (26.0 g).

reactant | 2-fluoro-3-methoxyphenol | 22.0 g | FC1=C(C=CC=C1OC)O | C7H7FO2
reactant | magnesium chloride | 71.7 g | [Cl-].[Mg+2].[Cl-]
reactant | paraformaldehyde | 46.5 g | C=O | CH2O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | dichloroethane | 250 mL | ClC(C)Cl | C2H4Cl2
solvent | triethylamine | 93.9 g | C(C)N(CC)CC | C6H15N
product | 3-fluoro-2-hydroxy-4-methoxybenzaldehyde | 26.0 g | FC=1C(=C(C=O)C=CC1OC)O | C8H7FO3
